Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with CAD s/p 3-vessel CABG and stents x2, HLD, DM2, 
followed by Dr. ___ started on coumadin for AF p/w 
palpitations and slight SOB that awoke her from sleep. No 
fevers. + chills. No chest pain. In in ___ edema recently. Recent 
stress about ___ year ago normal. Afib on ecg.
.
Patient reports waking up in the middle of the night having a 
sensation of "fluttering" in her heart. She took an Ativan but 
symptoms did not improve and so patient came to the ED. 
.
Of note, patient was recently found to be in afib by PCP, which 
resolved by the time she saw Dr. ___. About two weeks ago, 
she was taken off the Aspirin and placed on Coumadin for afib. 
Her levels have been appropriate per patient.
.  
In the ED, initial vitals were  98.1 94 139/74 16 100% 4L
 
Past Medical History:
Cardiac Risk Factors: DM, Dyslipidemia, Hypertension  
.  
Cardiac History:  
s/p MI ___: 3.0X13mm stent to mLAD, 2.5X13mm stent to pLCX  
CABG, in ___ anatomy as follows: LIMA to LAD, SVG to rPDA, rPL 
(sequential grafting)  
.  
Percutaneous coronary intervention ___ with 2x more recent 
caths): 
1. Coronary arteriography in this right dominant system revealed 
two 
vessel disease. The LMCA was calcified with a 30% ostial 
stenosis. The mid LAD had a 80% stenosis which was also 
calcified. The D1 and D2 arteries were both small. The D2 artery 
had a 60% ostial stenosis. The LCx was subtotally occluded in 
its mid portion. Distal to the occlusion collaterals were seen 
filling the distal LCx and OM1 from the RCA.The RCA was a large 
vessel with some mild luminal irregularities in the mid and 
distal portions. 
2. Resting hemodynamics were performed for the left side and 
revealed LV pressures of 170/14 mmHg. The elevated LVEDP in a 
patient with a normal end diastolic volume index is consistent 
with minimal to mild diastolic dysfunction. There was no 
pressure gradient measured across the aortic valve. 
3. Left ventriculography revealed anterolateral akinesis and 
apical 
hypokinesis. The calculated LVEF was 53%. No mitral 
regurgitation was 
seen. 
4. Successful stenting of the mid LCx with a 2.25x13mm Bx 
Velocity 
stent and stenting of the mid LAD with a 3.0x13mm Bx Velocity 
stent each with 0% residual stenosis. 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Mild diastolic ventricular dysfunction. 
3. Successful stenting of the mid LCx and mid LAD. 
.  
Pacemaker/ICD: None  
.  
Other Past History:  
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections)  
h/o R Knee Replacement ___ yrs ago

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
VS: T97.6 BP140/97 HR68 RR20 O2sat95% RA
GENERAL: NAD.
HEENT: Sclera anicteric. PERRL, EOMI. MMM.
NECK: Supple.  
CARDIAC: irregular. no m/g/r
LUNGS: CTAB, no crackles, wheezes, rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: ___ edema BLE
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
1. Labs in admission:
___ 02:20AM BLOOD WBC-9.4 RBC-4.36 Hgb-13.9 Hct-40.1 MCV-92 
MCH-32.0 MCHC-34.8 RDW-14.0 Plt ___
___ 02:20AM BLOOD ___ PTT-31.3 ___
___ 02:20AM BLOOD Glucose-228* UreaN-18 Creat-0.8 Na-139 
K-3.7 Cl-101 HCO3-25 AnGap-17
___ 02:20AM BLOOD cTropnT-<0.01
___ 07:55AM BLOOD cTropnT-<0.01 proBNP-693*
___ 07:55AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.9
___ 02:20AM BLOOD TSH-4.2
.
2. Labs on discharge:
___ 06:30AM BLOOD WBC-9.7 RBC-4.27 Hgb-14.1 Hct-39.5 MCV-92 
MCH-33.1* MCHC-35.8* RDW-13.6 Plt ___
___ 06:30AM BLOOD ___ PTT-26.1 ___
___ 06:30AM BLOOD Glucose-178* UreaN-21* Creat-0.8 Na-139 
K-3.4 Cl-101 HCO3-29 AnGap-12
___ 06:30AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.9
.
3. Imaging/diagnostics:
- CXR (___): Frontal and lateral views of the chest 
demonstrate stable 
cardiomegaly. Tortuous thoracic aorta with arch calcifications 
is 
redemonstrated. There is increased perihilar vascular congestion 
and mild 
interstitial edema. There is no pneumothorax or pleural 
effusion. Streaky 
bibasilar opacities may represent a combination of vascular 
markings and 
subsegmental atelectasis. Sternotomy wires and cholecystectomy 
clips are 
unchanged. Extensive calcifications are seen encasing the 
abdominal aorta.  Mild thoracic spondylosis is unchanged. 
  
IMPRESSION: Findings suggestive of increased vascular 
engorgement and mild 
early interstitial edema. 

 
Brief Hospital Course:
___ yo F with CAD s/p 3-vessel CABG, paroxysmal atrial 
fibrillation recently started on coumadin, HLD, DM2, peripheral 
neuropathy, admitted for palpitations. 
.
# Atrial fibrillation/flutter: On admission, patient in atrial 
fibrillation/flutter, HR in the ___. Atenolol recently decreased 
from 100 mg to 50 mg qd, which could be likely trigger. Atenolol 
dose increased to 75 mg qd for better rate control. INR was 
supratherapeutic at 4.0 on admission and one dose of warfarin 
was held. On discharge patient given one dose of 2.5 mg warfarin 
(INR = 2.1) and instructed to follow-up with ___ clinic the 
following day. 
.  
# Fluid overload: CXR and exam is consistent with fluid 
overload. Patient on 40 mg po lasix at home. Diuresed with 
boluses of IV lasix. Lower extremity edema improved. Discharged 
on furosemide 70 mg po qd. 
.  
#  CAD: No symptoms right now. Negative troponins x 2. Patient 
continued on Simvastatin 40 mg qd and Atenolol increased to 75 
mg qd. 
.  
#  Peripheral neuropathy: Continued home regimen of Gabapentin 
200 mg qAM 200 mg qPM 300 mg qhs.
.  
#  Diabetes: On glipizide and sitagliptin at home, which were 
held and patient placed on humalog insulin while in patient. 

 
Medications on Admission:
MEDICATIONS (confirmed with patient):  
Atenolol 50 mg po qhs                   
Furosemide 40 mg po qd
Simvastatin 40 mg po qhs
Nitroglycerin 0.4 mg Sublingual PRN angina
Glipizide SR 10 mg qAM 10 mg qPM                         
Sitagliptin (Januvia) 3 tabs at noon                     
Coumadin (recently) 2.5 mg (___) and 5 mg (___) 
Vicodin q4hr PRN (usually takes 3x/day, AM, noon, ___
Gabapentin 200 mg qAM 200 mg qPM 300 mg qhs
Ativan PRN for anxiety
OTC medication for heart burn (? sagerin)
 
Discharge Medications:
1. atenolol 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).
Disp:*45 Tablet(s)* Refills:*2*
2. furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).
Disp:*45 Tablet(s)* Refills:*2*
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tab 
Sublingual once a day as needed for chest pain: Take 1 tab every 
5 min as needed for chest pain. Max of 3 tabs.  Go to ER if CP 
not resolved. .  
5. glipizide 10 mg Tablet Extended Rel 24 hr Sig: One (1) Tablet 
Extended Rel 24 hr PO twice a day.  
6. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
7. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO QPM (once a 
day (in the evening)).  
8. gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
9. hydrocodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.  
10. Januvia 100 mg Tablet Sig: One (1) Tablet PO once a day: At 
noon. .  
11. Ativan 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for anxiety.  
12. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
Take to prevent constipation.  This is available 
over-the-counter. .
Disp:*60 Capsule(s)* Refills:*2*
13. senna 8.6 mg Capsule Sig: ___ Capsules PO at bedtime as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*2*
14. Coumadin 5 mg Tablet Sig: ___ Tablet PO QPM: Take one ___ 
tablet tonight and follow up with ___ clinic tomorrow for 
dosage adjustment.  .  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atrial fibrillation/flutter
Coronary artery disease
Diabetes mellitus
.
SECONDARY DIAGNOSES:
Peripheral neuropathy
Herniated disc
Legal blindness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, you were admitted to the ___ 
___ because you had palpitations in the middle of the 
night. You also noted increasing swelling in your legs. We gave 
you medication to get rid of the extra fluid. You should have an 
ultrasound of your heart done as an outpatient. Please ask you 
cardiologist or primary care doctor to help set this up for you.

Your INR was 2.1 today.  Please take coumadin 5mg tabs, 1 half 
tablet tonight and follow up with your ___ clinic tomorrow 
morning.  They will adjust your coumadin dosing accordingly so 
please follow their directions.  Prior to admission, you were 
taking coumadin 5mg tablets, 0.5 tab (2.5 mg) on ___ 
and 1 full tab (5 mg) on ___. 
.
You also had some constipation related to the vicodin.  Please 
take colace every day to prevent consitpation and senna as 
needed for constipation.  
.
Medications:
ADDED: colace and senna for constipation
CHANGED:
- Atenolol 75 mg by mouth daily
- Furosemide (lasix) 60 mg by mouth daily
REMOVED: none
 
Followup Instructions:
___